US09238656B2
(1S,2S,3R,4R)-3-[6-Chloro-2-(4-chloro-2-pyrrolidin-1-yl-thiazol-5-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid isopropylamide (Compound CLXV)
In a similar fashion to Compound LXXXVII, 4-Chloro-2-pyrrolidin-1-yl-thiazole-5-carbaldehyde (69.84 mg, 0.3223 mmol), (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid isopropylamide (97.42 mg, 0.2901 mmol), and Ammonium acetate (44.72 mg, 0.5802 mmol) were reacted to produce 5.21 mg (3.4%) of the title compound. (300 MHz, DMSO-d6) 12.60 (s, 1H), 8.10 (d, J=8 Hz, 1H), 7.93 (s, 1H), 6.90 (s, 1H), 6.34 (m, 2H), 5.00 (t, J=17 Hz, 8.5 Hz, 1H), 3.88 (m, 1H), 3.44 (m, 4H), 2.83 (s, 1H), 2.76 (s, 1H), 2.55 (d, J=8 Hz, 1H), 2.24 (d, J=8 Hz, 1H), 2.01 (m, 4H), 1.37 (d, J=8 Hz, 1H), 1.07 (d, J=7 Hz, 3H), 1.00 (d, J=7 Hz, 3H). MS=531 (M+H), HPLC: 3.11 min. (G Method)

reactant | 4-Chloro-2-pyrrolidin-1-yl-thiazole-5-carbaldehyde | 0.3223 mmol, 69.84 mg | ClC=1N=C(SC1C=O)N1CCCC1 | C8H9ClN2OS
reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid isopropylamide | 0.2901 mmol, 97.42 mg | C(C)(C)NC(=O)[C@H]1[C@@H]2C=C[C@H]([C@H]1NC1=C(C(=NC=C1Cl)N)N)C2 | C16H22ClN5O
reactant | Ammonium acetate | 0.5802 mmol, 44.72 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(4-chloro-2-pyrrolidin-1-yl-thiazol-5-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid isopropylamide | 5.21 mg, 3.4% | C(C)(C)NC(=O)[C@H]1[C@@H]2C=C[C@H]([C@H]1NC1=C3C(=NC=C1Cl)NC(=N3)C3=C(N=C(S3)N3CCCC3)Cl)C2 | C24H27Cl2N7OS
